US08536336B2
4-(bromomethyl)-2,6-dimethylphenyl acetate
To a solution of commercially available 4-(hydroxymethyl)-2,6-dimethylphenyl acetate (1 g, 5.15 mmol) and perbromomethane (2.39 g, 7.21 mmol) in tetrahydrofuran (25 mL) was added triphenylphosphine (1.620 g, 6.18 mmol). The mixture was stirred at room temperature for 6 hours then concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, hexane:ethyl acetate 4:1) to provide the title compound (1.05 g, 80% yield). MS (DCI/NH3) m/z 274 (M+NH4)+.

reactant | 4-(hydroxymethyl)-2,6-dimethylphenyl acetate | 5.15 mmol, 1 g | C(C)(=O)OC1=C(C=C(C=C1C)CO)C | C11H14O3
reactant | perbromomethane | 7.21 mmol, 2.39 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 6.18 mmol, 1.620 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-(bromomethyl)-2,6-dimethylphenyl acetate | 1.05 g, 80% yield | C(C)(=O)OC1=C(C=C(C=C1C)CBr)C | C11H13BrO2
